US06414005B1
Synthesis of 4-bromo-5-fluoro-2-nitrotoluene
A mixture of 5-fluoro-2-nitrotoluene (1.00 g), silver nitrate (2.21 g), bromine (0.37 ml) and conc. sulfuric acid (6 ml) was stirred for 1 hour under cooling with ice. The reaction mixture was added dropwise to ice water and then subjected to extraction with chloroform. The organic layer was washed with saturated sodium hydrogencarbonate solution, dried with anhydrous magnesium sulfate and then concentrated at reduced pressure to give the titled compound in admixture with its regioisomer at a ratio of 5:3 (yield, 83%).

reactant | 5-fluoro-2-nitrotoluene | 1.00 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | bromine | 0.37 ml | BrBr | Br2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
catalyst | silver nitrate | 2.21 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-bromo-5-fluoro-2-nitrotoluene | BrC1=CC(=C(C=C1F)C)[N+](=O)[O-] | C7H5BrFNO2
